US07323472B2
A solution of 18-crown-6 (422 mg, 1.6 mmol, 5 eq) and bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate (81 μL, 0.38 mmol, 1.2 eq) in anhydrous THF (20 mL) was cooled to −78°. To this solution was added potassium bis(trimethylsilyl)amide (0.96 mL, 0.48 mmol, 1.5 eq) as a 0.5 mol solution in toluene. This solution was stirred for additional 30 min at −78° and 2-methylsulfanyl-4-phenyl-6-phenylamino-pyrimidine-5-carbaldehyde (102 mg, 0.32 mmol) in dry THF (1 mL) was added dropwise. The reaction mixture was then stirred for 8 h at −78° and warmed to 23° and stirred 16 h. Sat'd aq. NH4Cl (5 mL), followed by diethyl ether (20 mL), was added. The layers were separated. The organic layer was washed with satd aq NaCl, dried (MgSO4), filtered and solvent was evaporated. The yellow residue was then purified by flash chromatography to afford 100 mg (91% yield) of pure 2-methylsulfanyl-4,8-diphenyl-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR δ 2.19 (s, 3H), 6.70 (d, 1H, J=9.9 Hz), 7.26 (m, 2H), 7.42-7.83 (m, 8H), 7.88 (d, 1H, J=9.9 Hz), LC MS (m/e)=346 (MH+).

reactant | 18-crown-6 | 1.6 mmol, 422 mg, 5 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate | 0.38 mmol, 81 μL, 1.2 eq | COC(=O)CP(OCC(F)(F)F)(OCC(F)(F)F)=O | C7H9F6O5P
reactant | potassium bis(trimethylsilyl)amide | 0.48 mmol, 0.96 mL, 1.5 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-methylsulfanyl-4-phenyl-6-phenylamino-pyrimidine-5-carbaldehyde | 0.32 mmol, 102 mg | CSC1=NC(=C(C(=N1)C1=CC=CC=C1)C=O)NC1=CC=CC=C1 | C18H15N3OS
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-methylsulfanyl-4,8-diphenyl-8H-pyrido[2,3-d]pyrimidin-7-one | 100 mg, 91% yield | CSC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=CC=CC=C2)C2=CC=CC=C2 | C20H15N3OS
